US07465731B2
To a solution of (5-chloro-2-pyrazinyl)methanol (11.0 g) in dioxane (carbethoxymethylene)triphenylphosphorane (29.2 g). After stirring for 2 hours at room temperature, a resulting precipitate was filtered and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (11.0 g).

reactant | (5-chloro-2-pyrazinyl)methanol | 11.0 g | ClC=1N=CC(=NC1)CO | C5H5ClN2O
reactant | dioxane (carbethoxymethylene)triphenylphosphorane | 29.2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O1CCOCC1
product | ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 11.0 g | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
